US04668838
Chromium (II) bis(2-ethylhexanoate) is prepared by the addition of an equimolar mixture of triethylamine and 2-ethylhexanoic acid in heptane to a suspension of 0.5 mole anhydrous chromium (II) chloride in heptane. A slow reaction results in the formation of a deep purple solution and the precipitation of triethylammonium hydrochloride. The product is isolated as a purple oil after removal of the precipitate by filtration and the volatiles under vacuum.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-ethylhexanoic acid | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | chromium (II) chloride | 0.5 mole | [Cl-].[Cr+2].[Cl-]
solvent | heptane | CCCCCCC | C7H16
product | Chromium (II) bis(2-ethylhexanoate) | C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.[Cr+2] | InChI=1S/2C8H16O2.Cr/c2*1-3-5-6-7(4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
